US03931226
11-(m-Chlorophenyl)-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol
2-Amino-3-(m-chlorophenyl)-3H-indol-3-ol hydrochloride (8.66 g) was converted to its oily base then heated under reflux with 1,4-dibromobutane (6.35 g) in ethanol (20 ml) for 4 hours. On cooling the title compound was obtained as its hydrobromide salt (2.41 g) m.p. 270°-275° C (decomp.) after recrystallization from methanol/ethyl acetate.

reactant | 2-Amino-3-(m-chlorophenyl)-3H-indol-3-ol hydrochloride | 8.66 g | Cl.NC1=NC2=CC=CC=C2C1(O)C1=CC(=CC=C1)Cl
reactant | 1,4-dibromobutane | 6.35 g | BrCCCCBr | C4H8Br2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 11-(m-Chlorophenyl)-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol | ClC=1C=C(C=CC1)C1(C=2N(C=3C=CC=CC13)CCCCN2)O | C18H17ClN2O
